US08198279B2
1-(4-(3-(dimethylamino)pyrido[3,2-b]pyrazin-8-yloxy)-2-fluorophenyl)-3-(2-fluoro-5-(trifluoromethyl)phenyl)urea (AA-068)
Method F2 was used with 8-(4-amino-3-fluorophenoxy)-N,N-dimethylpyrido[3,2-b]pyrazin-3-amine and 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene to afford the title compound as a white solid. Yield: 40 mg (66%).

reactant | 8-(4-amino-3-fluorophenoxy)-N,N-dimethylpyrido[3,2-b]pyrazin-3-amine | NC1=C(C=C(OC2=CC=NC=3C2=NC=C(N3)N(C)C)C=C1)F | C15H14FN5O
reactant | 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
product | 1-(4-(3-(dimethylamino)pyrido[3,2-b]pyrazin-8-yloxy)-2-fluorophenyl)-3-(2-fluoro-5-(trifluoromethyl)phenyl)urea | CN(C=1N=C2C(=NC1)C(=CC=N2)OC2=CC(=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F)F)C | C23H17F5N6O2
